US08247377B2
Intermediate 16: 5-Amino-1-(4-fluorophenyl)-N-{3,3,3-trifluoro-2-hydroxy-2-[(methylamino)methyl]propyl}-1H-pyrazole-4-carboxamide
To a solution of 5-amino-1-(4-fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-pyrazole-4-carboxamide (750 mg, 2.18 mmol) in anhydrous tetrahydrofuran (10 ml) was added methylamine (2M in tetrahydrofuran, 4 ml, 8 mmol) and stirred at 21° C. for 15 hours. It was evaporated to give a foam which was triturated with diethyl ether (ca. 5 ml). The resulting solid was filtered off and washed with a little diethyl ether and then petroleum ether)(40-60° to give the title compound (465 mg).

reactant | 5-amino-1-(4-fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-pyrazole-4-carboxamide | 2.18 mmol, 750 mg | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC1(OC1)C(F)(F)F | C14H12F4N4O2
reactant | methylamine | 8 mmol, 2M, 4 ml | CN | CH5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Amino-1-(4-fluorophenyl)-N-{3,3,3-trifluoro-2-hydroxy-2-[(methylamino)methyl]propyl}-1H-pyrazole-4-carboxamide | 465 mg | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(CNC)O | C15H17F4N5O2
